US04804658
Utilizing the procedure described in Example 5(b) employing a mixture of 7-(3H-imidazo[4,5-c]pyridin-3-yl)heptanoic acid and 7-(1H-imidazo[4,5-c]pyridin-1-yl)heptanoic acid, potassium salts in lieu of 4-(1H-imidazo[4,5-c]pyridin-1-ylmethyl) benzoic acid, potassium salt yielded an impure mixture of isomers. The mixture was purified by column chromatography (silica gel, 5% ethanol in chloroform) to yield a less polar isomer N-cyclohexyl-N-methyl-7-(3H-imidazo[4,5-c]pyridin-3-yl)heptanamide as a pale-yellow oil, having the following physical characteristics:

reactant | 7-(3H-imidazo[4,5-c]pyridin-3-yl)heptanoic acid | N1=CN(C=2C=NC=CC21)CCCCCCC(=O)O | C13H17N3O2
reactant | 7-(1H-imidazo[4,5-c]pyridin-1-yl)heptanoic acid | N1(C=NC=2C=NC=CC21)CCCCCCC(=O)O | C13H17N3O2
reactant | 4-(1H-imidazo[4,5-c]pyridin-1-ylmethyl) benzoic acid | N1(C=NC=2C=NC=CC21)CC2=CC=C(C(=O)O)C=C2 | C14H11N3O2
reactant | potassium | [K] | K
product | N-cyclohexyl-N-methyl-7-(3H-imidazo[4,5-c]pyridin-3-yl)heptanamide | C1(CCCCC1)N(C(CCCCCCN1C=NC2=C1C=NC=C2)=O)C | C20H30N4O
